US08105700B2
Preparation of Sodium 4-Biphenylacetate
4-Biphenylacetic acid (25.0 g, 0.1177 mol.) and sodium hydroxide (4.71 g, 0.1177 mol.) were dissolved in 50 mL of water and stirred at room temperature for 2 hours. The product was isolated by evaporating off the water.

reactant | 4-Biphenylacetic acid | 0.1177 mol, 25.0 g | C1(=CC=C(C=C1)CC(=O)O)C1=CC=CC=C1 | C14H12O2
reactant | sodium hydroxide | 0.1177 mol, 4.71 g | [OH-].[Na+]
solvent | water | 50 mL | O | H2O
product | Sodium 4-Biphenylacetate | C1(=CC=C(C=C1)CC(=O)[O-])C1=CC=CC=C1.[Na+] | InChI=1S/C14H12O2.Na/c15-14(16)10-11-6-8-13(9-7-11)12-4-2-1-3-5-12;/h1-9H,10H2,(H,15,16);/q;+1/p-1
